US04812164
using 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-4-pentafluoroethyl-2-(n-propoxy)-6(1H)-pyrimidinone and propargyl bromide with sodium carbonate in acetone there is obtained 1-[4-chloro-2-fluoro-5-(2-propynyloxy)-phenyl]-4-pentafluoroethyl-2-(n-propoxy)-6(1H)-pyrimidinone, 1H-NMR (CDCl3, 400 MHz): 7.34 ppm (d,1H), 6.98 ppm (d,1H), 6.65 ppm (s,1H), 4.76 ppm (m,2H), 4.36 ppm (m,2H), 2.56 ppm (t,1H), 1.67 ppm (m,2H), 0.85 ppm (t,3H);

reactant | 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-4-pentafluoroethyl-2-(n-propoxy)-6(1H)-pyrimidinone | ClC1=CC(=C(C=C1O)N1C(=NC(=CC1=O)C(C(F)(F)F)(F)F)OCCC)F | C15H11ClF6N2O3
reactant | propargyl bromide | C(C#C)Br | C3H3Br
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | 1-[4-chloro-2-fluoro-5-(2-propynyloxy)-phenyl]-4-pentafluoroethyl-2-(n-propoxy)-6(1H)-pyrimidinone | ClC1=CC(=C(C=C1OCC#C)N1C(=NC(=CC1=O)C(C(F)(F)F)(F)F)OCCC)F | C18H13ClF6N2O3
